US06417951B1
0.25 g of the product from c) was dissolved almost completely in 5 ml of methanol. 0.45 g of sodium cyanotriphenylborate was added. The mixture was stirred at room temperature for 17 h, during which the product gradually became crystalline. This product was filtered off with suction and washed with 25 ml of methanol, 25 ml of water and again with 25 ml of methanol. Drying gave 0.15 g (59% of theory) of a pate grey powder of the formula (LXXIV) with X−=NC—B(C6H5)3−.

reactant | sodium cyanotriphenylborate | 0.45 g | C(#N)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | B(C6H5)3 | B(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15B
